US04985588
Into a 1 l glass reactor equipped with a condenser, 251.0 g (1 mol) of isopropyl 2,4-dichloro-5-fluorobenzoate, 87 g (1.5 mol) of spray-dried potassium fluoride, 25.1 g of tetramethyl ammonium chloride and 500 g of sulforane were charged and reacted at 150° C. for 9 hours under vigorous stirring. After cooling, the inorganic salt was removed by filtration, and the filtrate was distilled under reduced pressure to obtain 199.8 g (yield: 85.2%) of isopropyl 2-chloro-4,5-difluorobenzoate. This compound was analyzed, and the results are as follows.

reactant | isopropyl 2,4-dichloro-5-fluorobenzoate | 1 mol, 251.0 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)Cl)F | C10H9Cl2FO2
reactant | potassium fluoride | 1.5 mol, 87 g | [F-].[K+]
catalyst | tetramethyl ammonium chloride | 25.1 g | [Cl-].C[N+](C)(C)C
product | isopropyl 2-chloro-4,5-difluorobenzoate | 199.8 g, yield: 85.2% | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)F | C10H9ClF2O2
